US08871753B2
Step B: tert-Butyl {3-[(5-nitro-2-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-2,3-dihydro-1,3-benzoxazol-7-yl)ethynyl]phenyl}carbamate
The desired compound was prepared according to the procedure of Example B5, step C, using 7-iodo-5-nitro-3-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-benzoxazol-2(3H)-on and tert-butyl (3-ethynylphenyl)carbamate as the starting materials in quantitative yield. LCMS for C26H31N3O7SiNa (M+Na)+: m/z=548.0.

reactant | 7-iodo-5-nitro-3-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-benzoxazol-2(3H)-on | IC1=CC(=CC=2N(C(OC21)=O)COCC[Si](C)(C)C)[N+](=O)[O-] | C13H17IN2O5Si
reactant | tert-butyl (3-ethynylphenyl)carbamate | C(#C)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C13H15NO2
product | tert-Butyl {3-[(5-nitro-2-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-2,3-dihydro-1,3-benzoxazol-7-yl)ethynyl]phenyl}carbamate | quantitative yield | [N+](=O)([O-])C=1C=C(C2=C(N(C(O2)=O)COCC[Si](C)(C)C)C1)C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C26H31N3O7Si
